US06809199B2
To 5 mL of THF at −78° C. was added 6.5 mL of a 1.0M solution of lithium hexamethyldisilazane in THF. t-Butyl acetate (0.9 mL) was added dropwise to the resulting cold solution, and the resulting mixture was stirred for 10 min at −78° C. 2,6-Dibromo-4-methoxy-benzyl bromide (1.2 g) in 5 mL of CCl4 was added dropwise over 5 min. The mixture was stirred 20 min at −78° C., then quenched by addition of 1 mL of saturated aqueous NaHCO3. The mixture was warmed to room temperature, diluted with 50 mL of saturated aqueous NaHCO3, and extracted with 3×20 mL of EtOAc. The combined organics were washed with 25 mL of brine, dried over MgSO4, and concentrated to yield t-Butyl 3-(2,6-dibromo-4-methoxyphenyl)-propionate as an oily yellow solid. Mass spectrum (ESI) 320.9 (M-OtBu). 1H NMR (500 MHz, CDCl3): δ 7.08 (s, 2H); 3.76 (s, 3H); 3.20 (m, 2H); 2.45 (m, 2H); 1.47 (s, 9H).

reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | t-Butyl acetate | 0.9 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 2,6-Dibromo-4-methoxy-benzyl bromide | 1.2 g | BrC1=C(CBr)C(=CC(=C1)OC)Br | C8H7Br3O
solvent | THF | C1CCOC1 | C4H8O
solvent | CCl4 | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | t-Butyl 3-(2,6-dibromo-4-methoxyphenyl)-propionate | BrC1=C(C(=CC(=C1)OC)Br)CCC(=O)OC(C)(C)C | C14H18Br2O3
